US08664402B2
10.0 g 5-hydroxy-2-methylpyridine (91.7 mmol), 11.0 mL pyridine and 100 mL dichloromethane were loaded into a 250 mL flask provided with mechanical stirrer, thermometer and thermostat. 18.5 mL trifluoromethanesulfonic anhydride (110.0 mmol) were added dropwise to such solution, keeping the temperature at 0° C. After stirring for 1.5 hours, 2 mL MeOH and aqueous solution saturated with NaHCO3 were added. The organic layer was washed with water and brine and then anhydrified on MgSO4. The solution was concentrated to residue under vacuum and the residue was purified on chromatography column using n-Hexane:AcOEt from 9:1 to 4:1 as eluent. 20 g 6-methylpyridin-3-yl trifluoromethansulfonate were obtained, for a molar yield equal to 90.1% as colorless oil.

reactant | 5-hydroxy-2-methylpyridine | 91.7 mmol, 10.0 g | OC=1C=CC(=NC1)C | C6H7NO
reactant | pyridine | 11.0 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 110.0 mmol, 18.5 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 6-methylpyridin-3-yl trifluoromethansulfonate | 20 g | FC(S(=O)(=O)OC=1C=NC(=CC1)C)(F)F | C7H6F3NO3S
